US06159978
Cyclohexyl-(6,7-dimethoxyquinoxalin-2-ylmethyl)-amine
To a 0.067 M solution of 6,7-dimethoxy-2-quinoxaline carboxaldehyde in 2:1 MeOH/1,2-dichlorethane (7.5 mL, 0.5 mmol) is added cyclohexylamine (0.11 mL, 0.9 mmol). The reaction is allowed to stir at room temperature overnight, then NaBH4 (0.038 g, 1 mmol) is added and the reaction mixture is stirred overnight. The mixture is then concentrated and chromatographed (50% EtOAc/hexanes-- approximately 5% MeOH in 50% EtOAc/hexanes). The oil is dissolved in EtOAc/hexanes and treated with HCl in EtOH. The resulting solution is concentrated and the solids are triturated with isopropanol to provide a white solid after drying in vacuo at 60° C. (m.p. 185-190° C. dec.). Anal. Calcd. for C17H23N3O2·HCl: C, 60.44; H, 17.16; N, 12.44; Found: C, 60.48; H, 6.88; N, 12.07.

reactant | 6,7-dimethoxy-2-quinoxaline carboxaldehyde | COC=1C=C2N=CC(=NC2=CC1OC)C=O | C11H10N2O3
reactant | MeOH 1,2-dichlorethane | 0.5 mmol, 7.5 mL | CO.ClCCCl
reactant | cyclohexylamine | 0.9 mmol, 0.11 mL | C1(CCCCC1)N | C6H13N
reactant | NaBH4 | 1 mmol, 0.038 g | [BH4-].[Na+]
product | Cyclohexyl-(6,7-dimethoxyquinoxalin-2-ylmethyl)-amine | C1(CCCCC1)NCC1=NC2=CC(=C(C=C2N=C1)OC)OC | C17H23N3O2
